US07157488B2
5-Propoxy-1-triisopropylsilanyltryptamine
Combine 2-(2-(5-propoxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione (416 mg, 0.8 mmol) in 20 mL EtOH and 1 mL hydrazine hydrate. Reflux for 3 hours, filter through celite and concentrate to residue. Dissolve the residue in 10 mL MeOH and load onto a 12 g SCX ion exchange cartridge and rinse sequentially with MeOH, DMP, then MeOH. Elute the product with 2 M NH3 in MeOH to give the title compound as an oil: ISMS 375 (M+1); 1H NMR (CDCl3) 7.34–7.32 (d, 1H), 7.02 (s, 1H), 7.00–6.99 (d, 1H), 6.80–6.77 (m, 1H), 3.97–3.94 (m, 2H), 3.01–2.98 (m, 2H), 2.86–2.83 (m, 2H), 1.88–1.76 (m 2H), 1.70–1.58 (m, 3H), 1.3 (bs, 2H), 1.14–1.08 (m, 18H), 1.06–1.02 (t, 3H).

reactant | 2-(2-(5-propoxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione | 0.8 mmol, 416 mg | C(CC)OC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C30H40N2O3Si
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | hydrazine hydrate | 1 mL | O.NN
product | 5-Propoxy-1-triisopropylsilanyltryptamine | C(CC)OC1=CC=C2N(C=C(CCN)C2=C1)[Si](C(C)C)(C(C)C)C(C)C | C22H38N2OSi
